US06656935B2
A mixture of (S)-4-(3-chloro-4-methoxybenzylamino)-5-carboxy-2-(2-hydroxymethyl-1-pyrrolidinyl)pyrimidine (100 mg) obtained in Example 1-(4), 4-amino-1,3,5-trimethylpyrazole (47.9 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (58.7 mg), 1-hydroxybenzotriazole monohydrate (41.3 mg), and N,N-dimethylformamide (3 ml) is stirred at room temperature for 8 hours, and poured into aqueous sodium hydrogen carbonate solution. The mixture is extracted with ethyl acetate, and the organic layer is washed with water and saturated brine, and dried over anhydrous sodium sulfate. The solvent is evaporated under reduced pressure, and the residue is purified by silica gel column chromatography (solvent; chloroform:methanol=5:1) to give (S)-2-(2-hydroxymethyl-1-pyrrolidinyl)-4-(3-chloro-4-methoxybenzylamino)-5-[N-(1,3,5-trimethyl-4-pyrazolyl)carbamoyl]pyrimidine (115 mg), MS (m/z): 500 (MH+).

reactant | (S)-4-(3-chloro-4-methoxybenzylamino)-5-carboxy-2-(2-hydroxymethyl-1-pyrrolidinyl)pyrimidine | 100 mg | ClC=1C=C(CNC2=NC(=NC=C2C(=O)O)N2[C@@H](CCC2)CO)C=CC1OC | C18H21ClN4O4
reactant | 4-amino-1,3,5-trimethylpyrazole | 47.9 mg | NC=1C(=NN(C1C)C)C | C6H11N3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 58.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole monohydrate | 41.3 mg | O.ON1N=NC2=C1C=CC=C2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (S)-2-(2-hydroxymethyl-1-pyrrolidinyl)-4-(3-chloro-4-methoxybenzylamino)-5-[N-(1,3,5-trimethyl-4-pyrazolyl)carbamoyl]pyrimidine | 115 mg | OC[C@H]1N(CCC1)C1=NC=C(C(=N1)NCC1=CC(=C(C=C1)OC)Cl)C(NC=1C(=NN(C1C)C)C)=O | C24H30ClN7O3
